US04880841
While ice-cooling a suspension of 84 g of stannous chloride --2H2O in 320 ml of glacial acetic acid with stirring until a transparent solution was obtained, hyrochloric acid gas was introduced into the solution and then 14.3 g of 3-chlorosulfonyl-4-methoxyphenylacetone was added to the solution at 25°-30° C. After further stirring the mixture at room temperature for 30 minutes, the reaction mixture obtained was poured into 320 ml of concentrated hydrochloric acid and after diluting the mixture with 640 ml of water, the product was extracted with 400 ml of chloroform. The chloroform layer formed was washed with water and then chloroform was distilled off to provide 10 g of oily 3-mercapto-4-methoxyphenylacetone.

reactant | hyrochloric acid | Cl | ClH
reactant | 3-chlorosulfonyl-4-methoxyphenylacetone | 14.3 g | ClS(=O)(=O)C=1C=C(C=CC1OC)CC(C)=O | C10H11ClO4S
reactant | hydrochloric acid | 320 ml | Cl | ClH
solvent | acetic acid | 320 ml | C(C)(=O)O | C2H4O2
solvent | water | 640 ml | O | H2O
product | 3-mercapto-4-methoxyphenylacetone | 10 g | SC=1C=C(C=CC1OC)CC(C)=O | C10H12O2S
